US04585789
3-Hydroxy-5-(3-hydroxypropyl)-4-phenyl-2(5H)-furanone (25 mg) was dissolved in tetrahydrofuran (6 ml), and triethylamine (0.018 ml) was added with ice-cooling and stirring, followed by dropwise addition of ethyl chlorocarbonate (0.012 ml). The mixture was stirred at the same temperature for 5 minutes, and the reaction mixture was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and dried over magnesium sulfate. The solvent was then distilled off. The remaining oil was purified by preparative thin layer chromatography (silica gel; developer: 4% methanol-chloroform) to give ethyl 5-(3-hydroxypropyl)-2-oxo-4-phenyl-2,5-dihydro-3-furancarboxylate (30 mg) as a colorless oil.

reactant | 3-Hydroxy-5-(3-hydroxypropyl)-4-phenyl-2(5H)-furanone | 25 mg | OC=1C(OC(C1C1=CC=CC=C1)CCCO)=O | C13H14O4
reactant | triethylamine | 0.018 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 0.012 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | ethyl 5-(3-hydroxypropyl)-2-oxo-4-phenyl-2,5-dihydro-3-furancarboxylate | 30 mg | OCCCC1C(=C(C(O1)=O)C(=O)OCC)C1=CC=CC=C1 | C16H18O5
